US07091211B2
Step B: tert-Butyl 1-vinyl-2-(tert-butyldimethylsilyloxy)-8-azaspiro[4.5]decane-8-carboxylate
To a solution of tert-butyl 1-vinyl-2-hydroxy-8-azaspiro[4.5]decane-8-carboxylate (0.462 g, 1.64 mmoL) from Step A in DMF (8 mL) was added imidazole (0.335 mg, 4.92 mmol) and then tert-butyldimethylsilyl chloride (0.370 g, 2.4 mmol). The reaction was stirred at room temperature for 20 h and then diluted with ether and sodium bicarbonate solution. The mixture was extracted twice with ether. The combined ether layers were washed with brine, dried over sodium sulfate, filtered, and concentrated. The residue was purified by flash chromatography eluting with 5% ethyl acetate in hexanes to afford the title compound (0.56 g) as a mixture of isomers.

reactant | tert-butyl 1-vinyl-2-hydroxy-8-azaspiro[4.5]decane-8-carboxylate | 0.462 g | C(=C)C1C(CCC12CCN(CC2)C(=O)OC(C)(C)C)O | C16H27NO3
reactant | imidazole | 4.92 mmol, 0.335 mg | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 2.4 mmol, 0.370 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | ether | CCOCC | C4H10O
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | tert-Butyl 1-vinyl-2-(tert-butyldimethylsilyloxy)-8-azaspiro[4.5]decane-8-carboxylate | 0.56 g | C(=C)C1C(CCC12CCN(CC2)C(=O)OC(C)(C)C)O[Si](C)(C)C(C)(C)C | C22H41NO3Si
